US09302989B2
4-(4-aminophenyl)-5,6,7,8-tetrahydro-2H-phthalazin-1-one
10.3 g of 2-(4-amino-benzoyl)-cyclohex-1-enecarboxylic acid (42 mmol) were dissolved in 45 mL ethanol, 2.7 g (54 mmol) hydrazine hydrate was added and the mixture was heated under reflux for 30 hours. Precipitation of the product already started several hours after heating. After cooling in the refrigerator overnight the precipitated product was filtered and washed with cold ethanol.

reactant | 2-(4-amino-benzoyl)-cyclohex-1-enecarboxylic acid | 42 mmol, 10.3 g | NC1=CC=C(C(=O)C2=C(CCCC2)C(=O)O)C=C1 | C14H15NO3
reactant | hydrazine hydrate | 54 mmol, 2.7 g | O.NN
solvent | ethanol | 45 mL | C(C)O | C2H6O
product | 4-(4-aminophenyl)-5,6,7,8-tetrahydro-2H-phthalazin-1-one | NC1=CC=C(C=C1)C1=NNC(C=2CCCCC12)=O | C14H15N3O
